US08609656B2
Preparation of methyl-[9-(4-nitrophenyl)-9H-purin-6-yl]amine
In 120 mL of dimethyl sulfoxide, 10.78 g (80 mmol) of methyl-(9H-purin-6-yl)amine was dissolved, and 1.98 g (82.5 mmol) of sodium hydride (60%) after washing with hexane was added thereto and the mixture solution was stirred at room temperature for one hour. To the reaction solution, 13.0 g (92 mmol) of 4-fluoronitrobenzene was added dropwise and the resulting solution was stirred at 80° C. for two hours. The reaction solution was diluted with 300 mL of water, and the crystal deposited was collected on a filter, then washed with 100 mL of water and subsequently with 500 mL of ethanol, and vacuum dried to obtain 16.14 g (83%) of a target product as a yellow solid.

reactant | methyl-(9H-purin-6-yl)amine | 80 mmol, 10.78 g | CNC1=C2N=CNC2=NC=N1 | C6H7N5
reactant | sodium hydride | 82.5 mmol, 1.98 g | [H-].[Na+]
reactant | 4-fluoronitrobenzene | 92 mmol, 13.0 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | dimethyl sulfoxide | 120 mL | CS(=O)C | C2H6OS
solvent | hexane | CCCCCC | C6H14
solvent | water | 300 mL | O | H2O
product | methyl-[9-(4-nitrophenyl)-9H-purin-6-yl]amine | 16.14 g, 83% | CNC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H10N6O2
